US08017611B2
2M Lithium borohydride in THF (15.06 ml) was added slowly to a stirred solution of O1-tert-butyl O2-methyl (2R,4R) 4-(tert-butyl-dimethyl-silyl)oxypyrrolidine-1,2-dicarboxylate (10.35 g) in THF (100 ml) at 0° C. The resulting mixture was allowed to warm to 20° C. and stirred for a further 18 hours. The reaction mixture was quenched with water and evaporated to remove THF. The aqueous residues were extracted with DCM (250 ml). The organic phase was washed sequentially with water (250 ml) and saturated brine (250 ml), dried over Magnesium sulphate, filtered and evaporated to give tert-butyl (2R,4R) 4-(tert-butyl-dimethyl-silyl)oxy-2-(hydroxymethyl)pyrrolidine-1-carboxylate (9.32 g). NMR Spectrum: (DMSOd6) 0.01 (6H, s); 0.80-0.82 (9H, m); 1.34 (9H, s); 1.84-1.89 (1H, m); 1.99 (1H, m); 3.00 (1H, m); 3.53-3.57 (4H, m); 4.28 (1H, s); 4.48-4.49 (1H, m).

reactant | Lithium borohydride | 2M | [BH4-].[Li+]
reactant | O1-tert-butyl O2-methyl (2R,4R) 4-(tert-butyl-dimethyl-silyl)oxypyrrolidine-1,2-dicarboxylate | 10.35 g | C(C)(C)(C)[Si](O[C@@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC)(C)C | C17H33NO5Si
solvent | THF | 15.06 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tert-butyl (2R,4R) 4-(tert-butyl-dimethyl-silyl)oxy-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 9.32 g | C(C)(C)(C)[Si](O[C@@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)CO)(C)C | C16H33NO4Si
